US04259198
(Epoxide resin (K))
108 g (0.1 equivalent) of an acid polyester, prepared from 11 mols of adipic acid and 10 mols of hexanediol and 155 g of an acid polyester prepared from 11 mols of sebacic acid and 10 mols of hexanediol (both prepared by the melt process) was warmed to 100° C. and mixed well with 22 g (0.2 equivalent) of triglycidyl isocyanurate and the mixture is poured into Anticorodal moulds which have internal dimensions of 150×150×1 mm, have been pre-treated with a silicone mould-release agent and have been pre-warmed to 120° C. The mixture is cured for 16 hours at 140° C. Crystalline, tough mouldings with the following properties are obtained:

reactant | adipic acid | 11 mols | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | hexanediol | 10 mols | C(CCCCC)(O)O | C6H14O2
reactant | sebacic acid | 11 mols | C(CCCCCCCCC(=O)O)(=O)O | C10H18O4
reactant | hexanediol | 10 mols | C(CCCCC)(O)O | C6H14O2
product | Epoxide resin | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
